* C:\Users\aldon\Documents\ee310-team16\Phase2-Transmitter\LTSpice\Phase-2-hardware-design.asc
XU1 U1+ N001 Vcc+ Vcc- N002 TLC081
XU2 N003 U2- Vcc+ Vcc- Vout1 TLC081
V1 Vcc+ 0 5
V2 0 Vcc- 0
R1 N001 Vout1 68k
R2 N003 N002 15k
R3 Vout1 N003 27k
C1 N002 N001 341p
V3 U1+ 0 2.2
V4 U2- 0 2.2
Rb1 Vout1 0 15k
Q1 Vcc+ Vout1 N005 0 BC547B
Q2 N004 N005 N006 0 BC547B
Re2 N006 0 27
D1 Vcc+ N004 D
Rpullup Vcc+ Vout1 100k
.model D D
.lib C:\Users\aldon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\aldon\AppData\Local\LTspice\lib\cmp\standard.bjt
.include TLC081.mod
.tran 0 10m 9.9m
.model BC547B NPN(IS=2.39E-14 NF=1.008 ISE=3.545E-15 NE=1.541 BF=294.3 IKF=0.1357 VAF=63.2 NR=1.004 ISC=6.272E-14 NC=1.243 BR=7.946 IKR=0.1144 VAR=25.9 RB=1 IRB=1.00E-06 RBM=1 RE=0.4683 RC=0.85 XTB=0 EG=1.11 XTI=3 CJE=1.358E-11 VJE=0.65 MJE=0.3279 TF=4.391E-10 XTF=120 VTF=2.643 ITF=0.7495 PTF=0 CJC=3.728E-12 VJC=0.3997 MJC=0.2955 XCJC=0.6193 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.9579 Vceo=45 Icrating=100m mfg=Philips)
.backanno
.end
